* Positive edge triggered flip-flop using TSPC
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
* width is the universal width parameter - 10*LAMBDA
.param width = {10*LAMBDA}
.global gnd vdd

.subckt inverter in out width
    MP out in vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN out in gnd gnd CMOSN W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)} AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}
.ends inverter

.subckt inverterLoad in out width
    MP out in vdd vdd CMOSP W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)} AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}

    MN out in gnd gnd CMOSN W={(width/2)} L={2*LAMBDA}
    + AS={5*(width/2)*LAMBDA} PS={10*LAMBDA+2*(width/2)} AD={5*(width/2)*LAMBDA} PD={10*LAMBDA+2*(width/2)}
.ends inverterLoad

* .subckt positive_latch clk d q width
*     MP1 a d vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MN1 a clk temp1 gnd CMOSN W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MN2 temp1 d gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MP2 q a vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MN3 q clk temp2 gnd CMOSN W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MN4 temp2 a gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

* .ends positive_latch

* .subckt negative_latch clk d q width
*     MP1 temp1 d vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MP2 b clk temp1 vdd CMOSP W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MN1 b d gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MP3 temp2 b vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MP4 q clk temp2 vdd CMOSP W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

*     MN2 q b gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
*     + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
* .ends negative_latch

.subckt tspc_d clk d q width
    * Negative Latch (First stage)
    MP1 temp1_n d vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP2 b clk temp1_n vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN1 b d gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP3 temp2_n b vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP4 q1 clk temp2_n vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN2 q1 b gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    * Middle stage inverter
    X1 q1 d2 width inverter

    * Positive Latch (Second stage)
    MP5 a d2 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN3 a clk temp1_p gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN4 temp1_p d2 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP6 q2 a vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN5 q2 clk temp2_p gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN6 temp2_p a gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    * Final Inverter
    X2 q2 q width inverter

.ends tspc_d

Vdd vdd gnd 'SUPPLY'
Vclk clk gnd pulse 1.8 0 0 0.01ns 0.01ns 10ns 20ns
Vd d gnd pulse 1.8 0 15n 0.01ns 0.01ns 20ns 40ns

X100 clk d q width tspc_d

*Load inverter
X101 q q_n width inverterLoad

.measure tran trise
+ TRIG v(q) VAL = 'SUPPLY / 10'  RISE = 1
+ TARG v(q) VAL = '9 * SUPPLY / 10'  RISE = 1

.measure tran tfall
+ TRIG v(q) VAL = '9 * SUPPLY / 10'  FALL = 1
+ TARG v(q) VAL = 'SUPPLY / 10' FALL = 1

.measure tran delay param = '(trise + tfall)/2'

.measure tran clk2q
+ TRIG v(clk) VAL='0.5*SUPPLY' RISE=1
+ TARG v(q) VAL='0.5*SUPPLY' RISE=1

.tran 1p 100n

.control
set hcopypscolor = 1
set color0=white
set color1=black

run

set curplottitle="DFF 2025122009"
plot v(d), v(clk), v(q)
.endc
