* 5-bit CLA Adder
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
* width is the universal width parameter - 10*LAMBDA
.param width = {10*LAMBDA}
.global gnd vdd

* NOT gate
.subckt inverter in out width
    MP out in vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN out in gnd gnd CMOSN W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)} AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}
.ends inverter

.subckt inverterLoad in out width
    MP out in vdd vdd CMOSP W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)} AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}

    MN out in gnd gnd CMOSN W={(width/2)} L={2*LAMBDA}
    + AS={5*(width/2)*LAMBDA} PS={10*LAMBDA+2*(width/2)} AD={5*(width/2)*LAMBDA} PD={10*LAMBDA+2*(width/2)}
.ends inverterLoad

* NAND gate
.subckt nand in_1 in_2 out width
    MP1 out in_1 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
   
    MP2 out in_2 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN1 out in_1 temp1 gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN2 temp1 in_2 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
.ends nand

* NOR gate
.subckt nor in_1 in_2 out width
    MP1 temp1 in_1 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
   
    MP2 out in_2 temp1 vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN1 out in_1 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN2 out in_2 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
.ends nor

* XOR gate
.subckt xor in_1 in_2 out width
    X1 in_1 in_1_inv width inverter
    M1 out in_2 in_1 vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)}
    + AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    M2 out in_2 in_1_inv gnd CMOSN W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)}
    + AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}

    M3 out in_1 in_2 vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)}
    + AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    M4 in_2 in_1_inv out gnd CMOSN W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)}
    + AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}
.ends xor

* OR gate
.subckt or in_1 in_2 out width
    * NOR gate
    MP1 temp1 in_1 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MP2 out1 in_2 temp1 vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MN1 out1 in_1 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MN2 out1 in_2 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    * Inverter
    MP3 out out1 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MN3 out out1 gnd gnd CMOSN W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)} AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}
.ends or

* AND gate
.subckt and in_1 in_2 out width
    * NAND gate
    MP1 out1 in_1 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MP2 out1 in_2 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MN1 out1 in_1 temp1 gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MN2 temp1 in_2 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    * Inverter
    MP3 out out1 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
    MN3 out out1 gnd gnd CMOSN W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)} AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}
.ends and

.subckt tspc_d clk d q width
    * Negative Latch (First stage)
    MP1 temp1_n d vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP2 b clk temp1_n vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN1 b d gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP3 temp2_n b vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP4 q1 clk temp2_n vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN2 q1 b gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    * Middle stage inverter
    X1 q1 d2 width inverter

    * Positive Latch (Second stage)
    MP5 a d2 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN3 a clk temp1_p gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN4 temp1_p d2 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MP6 q2 a vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN5 q2 clk temp2_p gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN6 temp2_p a gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    * Final Inverter
    X2 q2 q width inverter

.ends tspc_d

* 5-bit CLA Adder
* a4 a3 a2 a1 a0 
* b4 b3 b2 b1 b0 
* c0
* s4 s3 s2 s1 s0
* c5

* Input FFs
X50 clk a0_in a0 width tspc_d
X51 clk a1_in a1 width tspc_d
X52 clk a2_in a2 width tspc_d
X53 clk a3_in a3 width tspc_d
X54 clk a4_in a4 width tspc_d

X55 clk b0_in b0 width tspc_d
X56 clk b1_in b1 width tspc_d
X57 clk b2_in b2 width tspc_d
X58 clk b3_in b3 width tspc_d
X59 clk b4_in b4 width tspc_d

X65 clk c0_in c0 width tspc_d

* Bit 0
X1 a0 b0 g0_inv width nand
X2 a0 b0 p0_inv width nor
X3 a0 b0 mid_s0 width xor
X4 mid_s0 c0 s0 width xor

* C1 = (G0' . (P0' + C0'))'
X6 c0 c0_inv width inverter
X7 p0_inv c0_inv temp100 width or
X8 temp100 g0_inv c1 width nand

* Bit 1
X9 a1 b1 g1_inv width nand
X10 a1 b1 p1_inv width nor
X11 a1 b1 mid_s1 width xor
X12 mid_s1 c1 s1 width xor

* (P1' + p0')C0
X13 p1_inv p0_inv temp101 width nor
X14 temp101 c0 temp102 width and

* (G1' (P1' + G0'))'
X15 g0_inv p1_inv temp103 width or
X16 temp103 g1_inv temp104 width nand

* C2 = (G1' (P1' + G0'))' + (P1' + p0')C0
X17 temp104 temp102 c2 width or

* Bit 2
X18 a2 b2 g2_inv width nand
X19 a2 b2 p2_inv width nor
X20 a2 b2 mid_s2 width xor
X21 mid_s2 c2 s2 width xor

* (P2' + p1')C1
X22 p1_inv p2_inv temp105 width nor
X23 temp105 c1 temp106 width and

* (G2' (P2' + G1'))'
X24 g1_inv p2_inv temp107 width or
X25 temp107 g2_inv temp108 width nand

* C3 = (G2' (P2' + G1'))' + (P2' + p1')C1
X26 temp108 temp106 c3 width or

* Bit 3
X27 a3 b3 g3_inv width nand
X28 a3 b3 p3_inv width nor
X29 a3 b3 mid_s3 width xor
X30 mid_s3 c3 s3 width xor

* P4 (or Pout for 4-bit group)
X31 p3_inv p2_inv temp109 width nor 
X32 temp109 temp101 p4 width and

* G4 (or Gout for 4-bit group)
* (P3' + P2')' * (G1' (P1' + G0'))' = temp109 * temp104
X33 temp104 temp109 temp110 width and

* (G3' (P3' + G2'))'
X34 g2_inv p3_inv temp111 width or
X35 temp111 g3_inv temp112 width nand

* G4 = (G3' (P3' + G2'))' + (P3' + P2')' * (G1' (P1' + G0'))'
X36 temp112 temp110 g4_inv width nor

* C4 (or Cout from 4-bit) = (G4_inv . (P4 . C0)')'
X37 p4 c0 temp113 width nand
X38 temp113 g4_inv c4 width nand


* Bit 4: Generate and Propagate
X39 a4 b4 gen4_inv width nand
X40 a4 b4 prop4_inv width nor

* Bit 4: Sum = a4 XOR b4 XOR c4
X41 a4 b4 mid_s4 width xor
X42 mid_s4 c4 s4 width xor

* C5 = (gen4_inv . (prop4_inv + c4_inv))'
X43 c4 c4_inv width inverter
X44 prop4_inv c4_inv temp114 width or
X45 temp114 gen4_inv c5 width nand

* Inverter Loads
X100 s0_out s0_inv width inverterLoad
X101 s1_out s1_inv width inverterLoad
X102 s2_out s2_inv width inverterLoad
X103 s3_out s3_inv width inverterLoad
X104 s4_out s4_inv width inverterLoad
X105 c5_out c5_inv width inverterLoad

* Output FFs
X60 clk s0 s0_out width tspc_d
X61 clk s1 s1_out width tspc_d
X62 clk s2 s2_out width tspc_d
X63 clk s3 s3_out width tspc_d
X64 clk s4 s4_out width tspc_d

X66 clk c5 c5_out width tspc_d

Vdd vdd gnd 'SUPPLY'

Vclk clk gnd pulse 1.8 0 0 0.01ns 0.01ns 0.1ns 0.20ns

* INPUTS (11111 + 01111 + 0 = 101110)
Va0 a0_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Va1 a1_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Va2 a2_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Va3 a3_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Va4 a4_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns

Vb0 b0_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Vb1 b1_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Vb2 b2_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Vb3 b3_in gnd pulse 1.8 0 1ns 10ps 10ps 100n 200ns
Vb4 b4_in gnd pulse 0 1.8 1ns 10ps 10ps 100n 200ns

Vc0 c0_in gnd pulse 0 1.8 1ns 10ps 10ps 100n 200ns

* tpd from b0 to s4 (MSB of sum)
.measure tran tpd_rise
+ TRIG v(b0) VAL='0.5*SUPPLY' RISE=1 
+ TARG v(s4) VAL='0.5*SUPPLY' RISE=1

.measure tran tpd_fall
+ TRIG v(b0) VAL='0.5*SUPPLY' FALL=1 
+ TARG v(s4) VAL='0.5*SUPPLY' FALL=1

.measure tran tpd param = '(tpd_rise + tpd_fall)/2'

.measure tran avg_power avg p(Vdd) from=0ns to=20ns
.measure tran peak_power max p(Vdd) from=0ns to=20ns

.tran 100p 400ns

.control
set hcopypscolor = 0
set color0=white 
set color1=black 

run

set curplottitle="5bit_CLA_Adder-2025122009"

plot v(a0), v(a1)+2, v(a2)+4, v(a3)+6, v(a4)+8, v(clk)+10
plot v(b0), v(b1)+2, v(b2)+4, v(b3)+6, v(b4)+8, v(c0)+10, v(clk)+12
plot v(s4_out)+8, v(s3_out)+6, v(s2_out)+4, v(s1_out)+2, v(s0_out), v(c5_out)+10, v(clk)+12
.endc
