* NOR Gate 
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
* width is the universal width parameter - 10*LAMBDA
.param width = {10*LAMBDA}
.global gnd vdd

.subckt nor in_1 in_2 out width
    MP1 temp1 in_1 vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
   
    MP2 out in_2 temp1 vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN1 out in_1 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN2 out in_2 gnd gnd CMOSN W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}
.ends nor

Vdd vdd gnd 'SUPPLY'
Va a gnd pulse 0 1.8 0 0.01ns 0.01ns 10ns 20ns
Vb b gnd pulse 0 1.8 0 0.01ns 0.01ns 20ns 40ns

X1 a b y width nor 

.tran 100p 50n

.control
set hcopypscolor = 1
set color0=white
set color1=black

run

set curplottitle="2025122009 Nor gate"
plot v(a), v(b), v(y)
.endc