* NOT Gat
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
* width is the universal width parameter - 10*LAMBDA
.param width = {10*LAMBDA}
* k is the Wp/Wn ratio
.param k = {2}
.param W_N = {width}
.param W_P = {k * width}
.global gnd vdd

.subckt inverter in out width
    MP out in vdd vdd CMOSP W={(2*width)} L={2*LAMBDA}
    + AS={5*(2*width)*LAMBDA} PS={10*LAMBDA+2*(2*width)} AD={5*(2*width)*LAMBDA} PD={10*LAMBDA+2*(2*width)}

    MN out in gnd gnd CMOSN W={(width)} L={2*LAMBDA}
    + AS={5*(width)*LAMBDA} PS={10*LAMBDA+2*(width)} AD={5*(width)*LAMBDA} PD={10*LAMBDA+2*(width)}
.ends inverter

Vdd vdd gnd 'SUPPLY'
Va a gnd pulse 0 1.8 0 0.01ns 0.01ns 10ns 20ns

X1 a y width inverter

.tran 100p 50n

.control
set hcopypscolor = 1
set color0=white
set color1=black

run

set curplottitle="2025122009 Not gate"
plot v(a), v(y)
.endc